*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXF350ARA471MJH0G
*//   Date        : 2022/09/28
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXF350ARA471MJH0G_20deg-C 1 2

C1 4 2 2.82e-04
C2 5 2 8.51e-05
C3 6 2 3.09e-05
R1 3 4 5.90e-03
R2 4 5 4.09e-02
R3 5 6 2.01e+00
L1 1 3 5.00e-09

.ENDS
*$
